US04759869
To a solution of pentyloxyphenol (50 g, 0.25 mol) dissolved in ethanol (250 ml) was added a solution of NaOH (12 g, 0.30 mol) dissolved in water (12 ml), followed by dropwise adding to the mixture, (±)-p-(4-methylhexyl)toluenesulfonate (79 g, 0.27 mol), heating the resulting mixture under reflux for 10 hours, distilling off ethanol after completion of the reaction, extracting with toluene, washing the resulting organic layer with 6N-hydrochloric acid, then with 2N-NaOH aqueous solution, further with water until the washing water became neutral, distilling off the solvent to obtain an oily (±)-p-benzyloxyphenyl 4-methylhexyl ether (79 g) and subjecting this p-benzyloxyphenyl 4-methylhexyl ether to hydrogenolysis with 5% paradium-carbon to obtain the objective (±)-p-(4-methylhexyloxy)phenol (VII) (37 g).

reactant | pentyloxyphenol | 0.25 mol, 50 g | C(CCCC)OC1=C(C=CC=C1)O | C11H16O2
reactant | NaOH | 0.30 mol, 12 g | [OH-].[Na+]
reactant | (±)-p-(4-methylhexyl)toluenesulfonate | 0.27 mol, 79 g | CC(CCCC=1C=C(C(=CC1)C)S(=O)(=O)[O-])CC
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
product | (±)-p-benzyloxyphenyl 4-methylhexyl ether | 79 g | CC(CCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)CC | C20H26O2
